US05709820
A mixture of 130 g (322 mmol) of methyltriphenylphosphonium iodide and 1.3 liters of THF was cooled to -50° C. To this mixture was added 33.4 g (110 mmol) of t-BuOK and the resulting mixture was stirred for one hour. To this mixture was added dropwise, while maintaining a temperature at below -50° C., a solution of 90.0 g (248 mmol) of crude trans-4-(trans-4-(trans-4-(2-formylethyl)-cyclohexyl)cyclohexyl)cyclohexane carboxylic acid methyl ester in 900 ml of THF. After the dropwise addition, the temperature of the reaction solution was gradually allowed to rise up to room temperature and the mixture was stirred for further 5 hours. After the reaction was completed by adding 500 ml of water, the reaction mixture was filtered through Celite, the solvent was distilled off under reduced pressure and the filtrate was extracted with 1.0 liter of toluene. The organic layer was washed three times with 500 ml of water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was subjected to a silica gel column chromatography (a developing solvent: toluene) to give 40.0 g of crude trans-4-(trans-4-(trans-4-(3-butenyl)cyclohexyl)cyclohexyl)-cyclohexane carboxylic acid methyl ester.

reactant | methyltriphenylphosphonium iodide | 322 mmol, 130 g | [I-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | t-BuOK | 110 mmol, 33.4 g | CC(C)(C)[O-].[K+]
reactant | trans-4-(trans-4-(trans-4-(2-formylethyl)-cyclohexyl)cyclohexyl)cyclohexane carboxylic acid methyl ester | 248 mmol, 90.0 g | COC(=O)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC=O | C23H38O3
reactant | water | 500 ml | O | H2O
solvent | THF | 900 ml | C1CCOC1 | C4H8O
solvent | THF | 1.3 liters | C1CCOC1 | C4H8O
product | trans-4-(trans-4-(trans-4-(3-butenyl)cyclohexyl)cyclohexyl)-cyclohexane carboxylic acid methyl ester | 40.0 g | COC(=O)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC=C | C24H40O2
